US08604244B2
To a stirred solution of isopropyl chloroformate (2 g, 0.016 mol.) in 10 mL of DCM at 0° C. under nitrogen atmosphere was added pyridine (3.8 mL, 0.048 mol) and then ethylene glycol (2.7 mL, 3 eq). The progress of the reaction was monitored by thin layer chromatography (TLC). After stirring for 15 hrs at room temperature. After removing the solvent under reduce pressure, the residue was purified by silica gel column chromatography to give 2-hydroxyethyl isopropyl carbonate as a colorless oil (0.5 g, 42% yield). 1HNMR (400 MHz, CDCl3): δ 1.22 (t, J=7.2 Hz, 3H); 2.94 (sbroad, 1H); 3.78 (t, J=4.4 Hz, 2H); 4.18 (t, J=4.4 Hz, 2H); 4.07 (q, J=7.2H, 2H).

reactant | isopropyl chloroformate | 0.016 mol, 2 g | ClC(=O)OC(C)C | C4H7ClO2
reactant | pyridine | 0.048 mol, 3.8 mL | N1=CC=CC=C1 | C5H5N
reactant | ethylene glycol | 2.7 mL, 3 eq | C(CO)O | C2H6O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-hydroxyethyl isopropyl carbonate | 0.5 g, 42% yield | C(OCCO)(OC(C)C)=O | C6H12O4
